datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC[C:11]1([H:10])[O:12]C(C)C(C)[O:62]1>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC[C:11]1=[O+:12]C(C)C(C)[O:62]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].N#CC1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>CC[O:34][C:32]([C:21]([CH:20]([CH:10](C1=CC=C(C#N)C=C1)[C:11](=[N+:12]1CCCC1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)[O:64][C:13]([O-:14])=[C:12]([CH:11]([H:10])[C:92]2=[CH:93][CH:94]=[C:95]([N:96](C)C)[CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CC1(C)[O:64][C:13](=[O:14])[C:12](=[CH:11][C:92]2=[CH:93][CH:94]=[C:95]([N:96](C)C)[CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([H:10])[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14=13,14"
"CC[O:33][C:22](/[CH:21]=[CH:20]\[C:41](=[O:42])[O:52]CC)=[O:23].CC[O:82][C:71]([C-:10]1CCCCC[C:62]1=[O:61])=[O:72]>>CC[O:33][C:22](=[CH:21][CH:20]([C:10]1([C:71](=[O:72])[O:82]CC)CCCCC[C:62]1=[O:61])[C:41](=[O:42])[O:52]CC)[O-:23] 10=20;20,21=21,22;22,23=23"
"COCC[NH:10]CCOC.Cl[C:21]1=[CH:20][C:32](=[O:33])[C:31](Cl)=[CH:30][C:22]1=[O:23]>>COCC[NH+:10](CCOC)[CH:20]1[C:21](Cl)=[C:22]([O-:23])[CH:30]=[C:31](Cl)[C:32]1=[O:33] 10=20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.C[C:61]1=[N:62][C:72](C)=[CH:71][N-:10]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C:61](C)=[N:62][C:72](C)=[CH:71]2)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C[C:11]1=[N:10]CCC[NH:12]1.C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1>>C[C:11]1=[NH+:12]CCC[N:10]1[F:20].C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1 10,11=10,20;12=11,12;20,21=21"
"CO[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CO[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[CH:11][CH:10]2[C:20]([C:31]2=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)[CH:63]=[CH:64]1 10,11=10,20;12=11,12"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1.C[Si:72](C)(C)[O:12][C:11](=[CH2:10])[C:62]1=[C:63](F)[C:64](F)=[C:65](F)[C:84](F)=[C:83]1F>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C:11](=[O+:12][Si:72](C)(C)C)[C:62]2=[C:63](F)[C:64](F)=[C:65](F)[C:84](F)=[C:83]2F)[C:21]2=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[C@H]1[C@@H](C)[O:62][C@@:11](C)([H:10])[O:12]1.N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[C@H]1[C@@H](C)[O:62][C:11](C)=[O+:12]1.N#C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95](C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[C+:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95](C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1.FC(F)(F)[S:20][H:10] 10,11=10,20;12,13=11,12;14,15=13,14;20,21=21"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH2:10]C2=CC=CC=C2)[O:12]1>>C1=CC=C([CH2:10][CH:20]([N:21]2CCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1 10,11=10,20;12=11,12;20,21=21"
"CC1(C)C2CC1[C:11](C)=[CH:10]C2.CC[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC)=[O:23]>>CC[O:33][C:22](=[N:21][N:20]([CH:10]1CC2CC(C2(C)C)[C+:11]1C)[C:41](=[O:42])[O:43]CC)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
